US06498251B1
Synthesis Example 48c 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine
Under ice-cooling, 10% sodium hydroxide aqueous solution (10 ml) was added dropwise to ethanol solution (200 ml) of 3-thiophene aldehyde (11 g, 98 mmol) and nitromethane (6.0 g, 98 mmol). After the dropwise addition, the reaction solution was added dropwise to 5 N hydrochloric acid, and the thus formed precipitate was collected by filtration, washed with water and then dried to obtain crude 2-(3-thieno)-1-nitroethylene as yellow powder (yield, 10 g). At room temperature, diethyl ether solution (60 ml) of the crude 2-(3-thieno)-1-nitroethylene (1.55 g, 10 mmol) was added dropwise to diethyl ether suspension (20 ml) of lithium aluminum hydride (760 mg, 20 mmol), spending 40 minutes, and then the mixture was stirred for 20 minutes. Cold water was added to the reaction solution in small portions, and celite filtration was carried out when precipitate was formed. The precipitate was washed with ethyl acetate, combined with the filtrate, washed with saturated brine and dried with anhydrous magnesium sulfate, and then the solvent was removed by evaporation under a reduced pressure. The residue was mixed with water (1.1 ml) and 37% formaldehyde aqueous solution (620 mg, 10 mmol) and vigorously stirred at 100° C. for 3 hours. The solvent was removed by evaporation from the reaction solution under a reduced pressure, and the thus obtained residue was mixed with 5 N hydrochloric acid (2.2 ml) and concentrated hydrochloric acid (0.22 ml) and vigorously stirred at room temperature for 3 hours. The reaction solution was alkalified by adding sodium hydroxide aqueous solution, and the reaction product was extracted therefrom with ethyl acetate, washed with saturated brine and dried using anhydrous magnesium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 310 mg (2.2 mmol, 22% in yield) of the title compound.

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | 3-thiophene aldehyde | 98 mmol, 11 g | S1C=C(C=C1)C=O | C5H4OS
reactant | nitromethane | 98 mmol, 6.0 g | [N+](=O)([O-])C | CH3NO2
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | lithium aluminum hydride | 20 mmol, 760 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | formaldehyde | 10 mmol, 620 mg | C=O | CH2O
solvent | water | 1.1 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4,5,6,7-Tetrahydro-thieno[3,2-c]pyridine | S1C=CC=2CNCCC21 | C7H9NS
